US07572790B2
4-Bromo-3-formylbenzoic acid
4-Bromo-3-(dibromomethyl)benzoic acid (3.7 g) was added to a solution of aqueous sodium carbonate (16 g in 100 ml) and the mixture heated at 70° C. for 12 hrs. The pH of the cooled reaction was adjusted to pH5 using hydrochloric acid (2N) and the mixture extracted with ethyl acetate, to give, after evaporation of the solvent in vacuo, 4-bromo-3-formylbenzoic acid.

reactant | 4-Bromo-3-(dibromomethyl)benzoic acid | 3.7 g | BrC1=C(C=C(C(=O)O)C=C1)C(Br)Br | C8H5Br3O2
reactant | hydrochloric acid | 2N | Cl | ClH
reactant | sodium carbonate | 100 ml, 16 g | C([O-])([O-])=O.[Na+].[Na+]
product | 4-Bromo-3-formylbenzoic acid | BrC1=C(C=C(C(=O)O)C=C1)C=O | C8H5BrO3
